US08304557B2
N-{5-[(2-{[(2,2-difluorocyclopropyl)carbonyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of 2,2-difluorocyclopropanecarboxylic acid (104 mg, 0.850 mmol) in tetrahydrofuran (1 mL) were added oxalyl chloride (74.3 μL, 0.850 mmol) and N,N-dimethylformamide (1 drop), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (3 mL). N-{5-[(2-Amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (65.0 mg, 0.170 mmol) was added with stirring under ice-cooling, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=80/20→0/100) and recrystallized from ethyl acetate to give the title compound (22.0 mg, 27%) as a white solid.

reactant | 2,2-difluorocyclopropanecarboxylic acid | 0.850 mmol, 104 mg | FC1(C(C1)C(=O)O)F | C4H4F2O2
reactant | oxalyl chloride | 0.850 mmol, 74.3 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-Amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.170 mmol, 65.0 mg | NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)=N1 | C18H16FN7O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{5-[(2-{[(2,2-difluorocyclopropyl)carbonyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 22.0 mg, 27% | FC1(C(C1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)=N1)F | C22H18F3N7O3
